US04677219
A mixture of 0.3 g (1.91 mmol) of 2,4-dicyano-3-methylaniline, 0.44 g (3.82 mmol) of chloroformamidine hydrochloride, and 0.7 g of dimethylsulfone was heated to 170°-175° C. The mixture solidified after a time, and was allowed to cool to room temperature. Water (20 ml) was added, and the resulting mixture was made basic with 1 molar aqueous sodium hydroxide solution, filtered, and washed with water. The solids were triturated with methanol to yield 0.167 g of 2,4-diamino-5-methyl-6-quinazolinecarbonitrile, mp>270° C. The infrared, mass, and proton magnetic resonance spectra corresponded to those of a known sample of the compound.

reactant | 2,4-dicyano-3-methylaniline | 1.91 mmol, 0.3 g | C(#N)C1=C(N)C=CC(=C1C)C#N | C9H7N3
reactant | chloroformamidine hydrochloride | 3.82 mmol, 0.44 g | Cl.ClC(=N)N
reactant | dimethylsulfone | 0.7 g | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydroxide | 1 molar | [OH-].[Na+]
solvent | Water | 20 ml | O | H2O
product | 2,4-diamino-5-methyl-6-quinazolinecarbonitrile | 0.167 g | NC1=NC2=CC=C(C(=C2C(=N1)N)C)C#N | C10H9N5
